US07326710B2
(IV-11) N1-phenacyl-N4-(4-nitrophenacyl)piperazine dihydrochloride
A mixture of 2-chloro-1-(4-nitrophenyl)ethanone (3.2 mmol), N-phenacyl piperazine dihydrochloride (3 mmol), and K2CO3 (9 mmol) in 30 ml of DMF was treated according to the general preparation 2 to give compound (IV-11), 0.71 g (61%), mp 204-205° C., M+ 367.

reactant | 2-chloro-1-(4-nitrophenyl)ethanone | 3.2 mmol | ClCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO3
reactant | N-phenacyl piperazine dihydrochloride | 3 mmol | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCNCC1
reactant | K2CO3 | 9 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N1-phenacyl-N4-(4-nitrophenacyl)piperazine dihydrochloride | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C20H21N3O4.2ClH/c24-19(16-4-2-1-3-5-16)14-21-10-12-22(13-11-21)15-20(25)17-6-8-18(9-7-17)23(26)27;;/h1-9H,10-15H2;2*1H
